data/pmechdb/original/mc_train_fold0/raw/train.txt
CC1CC(C(C=C1CO[Si](C2=CC=CC=C2)(C3=CC=CC=C3)C(C)(C)C)(C)CCCO[Si](C)(C)C(C)(C)C)([CH:20]=[S+:21]C4=CC=CC=C4)O.[OH2:10].CC(=O)O.CC(=O)[O-].[Na+]>>CC1CC(C(C=C1CO[Si](C2=CC=CC=C2)(C3=CC=CC=C3)C(C)(C)C)(C)CCCO[Si](C)(C)C(C)(C)C)([CH:20]([OH2+:10])[S:21]C4=CC=CC=C4)O.CC(=O)O.CC(=O)[O-].[Na+] 10=20;20,21=21
C(C(=O)O[Ca:20]O)[NH2:10].[OH2+][Ca]O>>C1C(=O)O[Ca-:20]([NH2+:10]1)O.[OH2+][Ca]O 10=20,
C[CH+:20]C.CO[C:11]1=[CH:10]C2=C(C=CC=C2)C=C1>>C[CH:20](C)[CH:10]1C2=C(C=CC=C2)C=C[C+:11]1OC 10,11=10,20
[H:20][O:21]S(=O)(=O)O.CCNC[CH:10]=[C:11]=[NH:12]>>[H:20][CH:10](CNCC)[C:11]#[NH+:12].OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21;12=11
CO[C:20]1([OH+:21]CCO1)[OH:10]>>CO[C:20](=[OH+:10])OCC[OH:21] 10=20;20,21=21
[H:20][OH:21].C=CCC[O-:10]>>[H:20][O:10]CCC=C.[OH-:21] 10=20;20,21=21
C[C:10]1=[C:11](C2=C(C(=C(C=C2OC)OC)OC)O[C:20]1(CCC(C)C(C)OC)[OH:21])[O-:12].CO>>C[C:10]1=[C:20](OC2=C([C:11]1=[O:12])C(=CC(=C2OC)OC)OC)CCC(C)C(C)OC.CO.[OH-:21] 10,11=10,20;12=11;20,21=21
C[NH:10][S+:20](C)[O-]>>C[NH+:10]=[S:20](C)[O-] 10=20,
C[CH:20]=[O+:21]CCC[NH2:10]>>C[CH:20]1[NH2+:10]CCC[O:21]1 10=20;20,21=21
CON1C2=C(C=CC=C2)C3(C1=O)CC(C4CC(=O)C3OC4)C(=[O:10])O.C(=O)([C:20](=[O:21])Cl)Cl>>CON1C2=C(C=CC=C2)C3(C1=O)CC(C4CC(=O)C3OC4)C(=[O+:10][C:20](C(=O)Cl)([O-:21])Cl)O 10=20;20,21=21
C1CN(CC[NH:10]1)C2=CC=C(C(=C2)Cl)Cl.C1=CC=C(C=C1)C2=CC=C(C=C2)C(=O)[CH2:20][Cl:21].CN(C)C=O.C(=O)([O-])[O-].[K+]>>C1CN(CC[NH+:10]1[CH2:20]C(=O)C2=CC=C(C=C2)C3=CC=CC=C3)C4=CC=C(C(=C4)Cl)Cl.[Cl-:21].CN(C)C=O.C(=O)([O-])[O-].[K+] 10=20;20,21=21
C[N-:10]C.C[Si:20](C)(C)OS(=O)(=O)C>>C[N:10](C)[Si-:20](C)(C)(C)OS(=O)(=O)C 10=20,
[H:20][CH2:21][CH:22]=[N+:23](CC)CC.CC[NH:10]CC>>[H:20][NH+:10](CC)CC.CC[N:23](CC)[CH:22]=[CH2:21] 10=20;22,23=23;20,21=21,22
CC1=CC(=C(C(=C1)O)CC[C+:20](C)C)[O-:10].[OH3+]>>CC1=CC2=C(CC[C:20]([O:10]2)(C)C)C(=C1)O.[OH3+] 10=20,
[H:20][N+:21](=C(CC=C)OC)Cl.[OH:10][Na].[Cl-]>>[H:20][OH+:10][Na].COC(=[N:21]Cl)CC=C.[Cl-] 10=20;20,21=21
[H:20][O:21]C(C1=[N+](N=C2N1CCC2)C3=C(C(=C(C(=C3F)F)F)F)F)(C([CH:10]=[C:11](C4=C(C=CC=C4)F)[O-:12])C5=CC6=C(C=C5)OCO6)C(=O)OCC.[B-](F)(F)(F)F.CC[NH+](CC)CC>>[H:20][CH:10](C(C1=CC2=C(C=C1)OCO2)C(C3=[N+](N=C4N3CCC4)C5=C(C(=C(C(=C5F)F)F)F)F)(C(=O)OCC)[O-:21])[C:11](=[O:12])C6=C(C=CC=C6)F.[B-](F)(F)(F)F.CC[NH+](CC)CC 10,11=10,20;20,21=21;12=11
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.CCOC1=C2C=C(C(=C2C=CC=C1)C(=O)OCC)C(CC(=[O:10])C3=CC=C(C=C3)OC)C(=O)C.CN(C)C=O>>[H:20][O+:10]=C(CC(C1=CC2=C(C=CC=CC2=C1C(=O)OCC)OCC)C(=O)C)C3=CC=C(C=C3)OC.CC1=CC=C(C=C1)S(=O)(=O)[O-:21].CN(C)C=O 10=20;20,21=21
[H:20][O:21]C.CC1CC(CCC(=C1)C(=O)OC)C(=O)[O-:10]>>[H:20][O:10]C(=O)C1CCC(=CC(C1)C)C(=O)OC.C[O-:21] 10=20;20,21=21
[B:20](F)(F)F.COC[O:10]C.CCOCC.COC1=C2C(=CC=C1)C(=C(C=C2OC)CC(CCOCC3=CC=CC=C3)O)OC>>[B-:20]([O+:10](C)COC)(F)(F)F.CCOCC.COC1=C2C(=CC=C1)C(=C(C=C2OC)CC(CCOCC3=CC=CC=C3)O)OC 10=20,
[H:20][C:21]1([CH+:22]C=C(O1)S(=O)(=O)O)C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[CH:22]C=C(O1)S(=O)(=O)O 10=20;20,21=21,22
CC(=O)CC[CH:20]=[O:21].[OH-:10]>>CC(=O)CC[CH:20]([OH:10])[O-:21] 10=20;20,21=21
[B-]([O+:21]1CC[O:10][C:20]12CCC(CCC3C2(C4=CC(=CC=C34)C)O)C)(F)(F)F.CC[SiH](CC)CC>>[B-]([O:21]CC[O+:10]=[C:20]1CCC(CCC2C1(C3=CC(=CC=C23)C)O)C)(F)(F)F.CC[SiH](CC)CC 10=20;20,21=21
C1CNC2=[N:10]CCCN2C1.C1=CC(=CC=C1[CH2:20][Br:21])C#N>>C1CNC2=[N+:10](CCCN2C1)[CH2:20]C3=CC=C(C=C3)C#N.[Br-:21] 10=20;20,21=21
CC(=O)C1CC[O:21][C:20]1([O-:10])OC>>CC(=O)C(CC[O-:21])[C:20](=[O:10])OC 10=20;20,21=21
C[N+:21](=[C:20](O)OC)CCC[OH:10]>>C[N:21]1CCC[OH+:10][C:20]1(O)OC 10=20;20,21=21
CN[C:20](=[O:21])OC.[OH-:10]>>CN[C:20]([OH:10])([O-:21])OC 10=20;20,21=21
[H:20][OH2+:21].CC(C)(C)[CH:11]=[CH2:10]>>[H:20][CH2:10][CH+:11]C(C)(C)C.[OH2:21] 10,11=10,20;20,21=21
C[Si-:11](C)(C)([CH2:10][C+:20]=C)[O+]=C>>C=[C:20]=[CH2:10].C[Si:11](C)(C)[O+]=C 10,11=10,20
CC[NH2:10].C[C:20](=[O:21])Cl>>CC[NH2+:10][C:20](C)([O-:21])Cl 10=20;20,21=21
[H:20][OH2+:21].CC1(C[O:10]1)C>>[H:20][O+:10]1CC1(C)C.[OH2:21] 10=20;20,21=21
[H:20][C:21]1(C(=NC(=N[C:22]1=[OH+:23])C)O)[N+](=O)[O-].OS(=O)(=O)[O-:10].O>>[H:20][O:10]S(=O)(=O)O.CC1=N[C:22](=[C:21](C(=N1)O)[N+](=O)[O-])[OH:23].O 10=20;22,23=23;20,21=21,22
C[C+:20](C)C1CC12C(CCCC2=O)[OH:10].C(F)(F)(F)S(=O)(=O)[O-]>>C[C:20]1(C2CC23C([OH+:10]1)CCCC3=O)C.C(F)(F)(F)S(=O)(=O)[O-] 10=20,
[H:16][Al-:17]([H:18])([H:19])[H:20].[CH3:1][O:2][C:3]1=[CH:4][C:5]2=[C:6]([CH:10]=[CH:11][CH:12]=[C:13]2[CH:14]=[CH:15]1)[CH2:7][C:8]#[N:9]>>[H:16][C:8](=[N-:9])[CH2:7][C:6]1=[C:5]2[CH:4]=[C:3]([CH:15]=[CH:14][C:13]2=[CH:12][CH:11]=[CH:10]1)[O:2][CH3:1].[H:20][Al:17]([H:19])[H:18] 17,16=16,8;8,9=9
[H:20][N:21](CC)C(=O)C.CC#[C-:10]>>[H:20][C:10]#CC.CC[N-:21]C(=O)C 10=20;20,21=21
[H:20][C:21]1(C=CC(=C[CH+:22]1)C)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC1=C[CH:22]=[C:21](C=C1)[N+](=O)[O-] 10=20;20,21=21,22
C[Mg-]([P:10](C)(Cl)(Cl)[Cl:11])Cl>>C[Mg-]([P+:10](C)(Cl)Cl)Cl.[Cl-:11] 10,11=11
[H:20][CH:21](C1=CC=CC=C1)[O:22][S+:23](C)[CH2-:10].C(=O)(O)O.[Br-]>>[H:20][CH2:10][S:23]C.C1=CC=C(C=C1)[CH:21]=[O:22].C(=O)(O)O.[Br-] 10=20;22,23=23;20,21=21,22
